US08110585B2
5-bromo-2-(trifluoromethyl)imidazo[1,2-a]pyridine
6-Bromopyridin-2-amine (20.0 g, 116 mmol) and 3-bromo-1,1,1-trifluoroacetone (24.0 mL, 231 mmol) were dissolved in ethanol (200 mL), and the mixture was heated under reflux for 4 days. The precipitated solid was collected by filtration and dissolved in dichloromethane. The solution was washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (26.0 g, yield 85%).

reactant | 6-Bromopyridin-2-amine | 116 mmol, 20.0 g | BrC1=CC=CC(=N1)N | C5H5BrN2
reactant | 3-bromo-1,1,1-trifluoroacetone | 231 mmol, 24.0 mL | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-bromo-2-(trifluoromethyl)imidazo[1,2-a]pyridine | 26.0 g, yield 85% | BrC1=CC=CC=2N1C=C(N2)C(F)(F)F | C8H4BrF3N2
